US04939133
LAH (0.25 g, 6.5 mmole) is added to dry THF (20 ml) under an inert atmosphere, then cooled to ~4° C. (ice/water bath). N-formyl-4-[2-(3,4-dibenzyloxyphenyl)ethyl]benzeneamine (2.9 g, 6.5 mmole) is dissolved in dry THF (20 ml) and added via cannula dropwise to the LAH/THF suspension. The reaction is stirred for 20 hours at ambient temperature under an inert atmosphere. Water (0.25 ml) followed by 15% NaOH (0.25 ml) and finally water (0.75 ml) is added to the reaction mixture. The mixture is filtered, diluted with 0.5 volume of ether, and the organics are washed with brine and then dried (Na2SO4). Concentration affords 1.9 g (70% g) of N-methyl-4-[2-(3,4-dibenzyloxyphenyl)ethyl]benzeneamine, mp 61°-65° C., of sufficient purity for further use.

reactant | LAH | 6.5 mmole, 0.25 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-formyl-4-[2-(3,4-dibenzyloxyphenyl)ethyl]benzeneamine | 6.5 mmole, 2.9 g | C(=O)NC1=CC=C(C=C1)CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H27NO3
reactant | LAH THF | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
reactant | NaOH | 0.25 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 0.75 ml | O | H2O
solvent | Water | 0.25 ml | O | H2O
product | N-methyl-4-[2-(3,4-dibenzyloxyphenyl)ethyl]benzeneamine | 1.9 g, 70% | CNC1=CC=C(C=C1)CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C29H29NO2
